US05200422
a) N,N'-di-(2-methoxyphenyl)-urea
A solution of o-anisidine (12.3 g, 100 mmol) and triethylamine (11 ml, 80 mmol) in absolute toluene (100 ml) was under stirring on an ice bath added phosgene (20.7 ml, 1.93 M sol in toluene, 40 mmol) and the mixture was stirred at 90° C. for 3 hours. The reaction mixture was after cooling to ambient temperature poured into water (100 ml) and the title compound was collected by filtration and used without further purification.

reactant | o-anisidine | 100 mmol, 12.3 g | COC=1C(=CC=CC1)N | C7H9NO
reactant | triethylamine | 80 mmol, 11 ml | C(C)N(CC)CC | C6H15N
reactant | phosgene | 40 mmol, 1.93 M, 20.7 ml | C(=O)(Cl)Cl | CCl2O
reactant | water | 100 ml | O | H2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | N,N'-di-(2-methoxyphenyl)-urea | COC1=C(C=CC=C1)NC(=O)NC1=C(C=CC=C1)OC | C15H16N2O3
